US08258097B2
[(S)-2-(4-Benzyloxy-3-ethylcarbamoyloxy-phenyl)-1-methylcarbamoyl-ethyl]-carbamic acid tert-butyl ester (243 mg) was suspended in 4M HCl-dioxane (5 ml) and stirred at room temperature for 1 hour. The clear solution was evaporated to dryness giving an oil which was redissolved in methanol (5 ml). 5% Pd—C (50 mg) was added and the mixture stirred under an atmosphere of hydrogen gas at room temperature for 2 hours. The catalyst was removed by filtration and washed with methanol. Evaporation of the filtrate gave the crude product as an oil. Trituration with ether gave (S)-2-(3-ethylcarbamoyloxy-4-hydroxy-phenyl)-1-methylcarbamoyl-ethyl-ammonium chloride as a grey solid, 150 mg; NMR (500 MHz, d6 DMSO) 1.07 (3H, t J 7), 2.59 (3H, d J 4.5 collapse to s with D2O), 2.82-2.95 (2H, m), 3.03-3.10 (2H, m), 3.83 (1H, t J 7), 6.81-6.85 (3H, m), 7.55 (1H, t J 5.5), 8.19 (3H, br exch D2O), 8.37 (1H, br q exch D2O), 9.5 (1H, s, exch D2O); HPLC/MS Retention time 2.9 min, m/z 282 (MH+).

reactant | [(S)-2-(4-Benzyloxy-3-ethylcarbamoyloxy-phenyl)-1-methylcarbamoyl-ethyl]-carbamic acid tert-butyl ester | 243 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC(NCC)=O)C(NC)=O)=O | C25H33N3O6
reactant | ether | CCOCC | C4H10O
reactant | HCl dioxane | 4M, 5 ml | Cl.O1CCOCC1
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | (S)-2-(3-ethylcarbamoyloxy-4-hydroxy-phenyl)-1-methylcarbamoyl-ethyl-ammonium chloride | [Cl-].C(C)NC(=O)OC=1C=C(C=CC1O)C[C@@H](C(NC)=O)[NH3+] | InChI=1S/C13H19N3O4.ClH/c1-3-16-13(19)20-11-7-8(4-5-10(11)17)6-9(14)12(18)15-2;/h4-5,7,9,17H,3,6,14H2,1-2H3,(H,15,18)(H,16,19);1H/t9-;/m0./s1
